US09284306B2
2A. (R)-3-Amino-5-(benzyloxymethyl)oxazolidin-2-one
(R)-2-(Benzyloxymethyl)oxirane (2.5 g, 15.23 mmol) was added dropwise to hydrazine mono-hydrate (4.67 g, 91 mmol), previously heated at 95° C., under vigorous stirring. The mixture was refluxed for 30 min. The excess of hydrazine hydrate was evaporated under vacuum for 3 h, at 53° C. and then at r.t., under vigorous magnetic stirring, for 18 h. A sticky colourless oil was obtained. The crude was dissolved in dry MeOH (5 mL) and a solution of sodium methoxide 0.5M in methanol (4.6 mL, 2.284 mmol), then diethyl carbonate (2.16 g, 18.27 mmol) were added dropwise. The mixture was refluxed for 6 h. The solvent was evaporated and the crude purified by flash silica-gel chromatography (DCM/MeOH=75:1) affording the title compound as a yellow oil that solidified on standing into a white solid (2.232 g, 10.04 mmol). Yield=66%.

reactant | (R)-2-(Benzyloxymethyl)oxirane | 15.23 mmol, 2.5 g | C(C1=CC=CC=C1)OC[C@@H]1OC1 | C10H12O2
reactant | hydrazine mono-hydrate | 91 mmol, 4.67 g | O.NN
reactant | sodium methoxide | 0.5M | C[O-].[Na+]
reactant | diethyl carbonate | 18.27 mmol, 2.16 g | C(OCC)(OCC)=O | C5H10O3
solvent | MeOH | 5 mL | CO | CH4O
solvent | methanol | 2.284 mmol, 4.6 mL | CO | CH4O
product | (R)-3-Amino-5-(benzyloxymethyl)oxazolidin-2-one | Yield=66% | NN1C(O[C@H](C1)COCC1=CC=CC=C1)=O | C11H14N2O3
